US05098602
Then, 0.57 g (2.14 mmol) of the above (+)-3-fluoro-4-(2-methyloctanoyl) anisole and 6 ml of dried toluene were placed in a flask, to which was added 1.78 g (6.67 mmol) of anhydrous aluminum bromide while cooling on ice water. The resulting mixture was stirred under the cooling on ice water for 30 minutes and at room temperature for 6.5 hours. The reaction mixture was poured into 30 ml of ice water and extracted with toluene. The organic layer was washed with water, dried on magnesium sulfate, filtered and concentrated to obtain 0.55 g (2.18 mmol, yield: 100%) of brown oily 3-fluoro-4-(2-methyloctanoyl) phenol having the aforementioned physical and chemical properties.

reactant | (+)-3-fluoro-4-(2-methyloctanoyl) anisole | 2.14 mmol, 0.57 g | FC=1C=C(C=CC1C(C(CCCCCC)C)=O)OC | C16H23FO2
reactant | aluminum bromide | 6.67 mmol, 1.78 g | [Br-].[Al+3].[Br-].[Br-]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-(2-methyloctanoyl) phenol | 2.18 mmol, 0.55 g, yield: 100% | FC=1C=C(C=CC1C(C(CCCCCC)C)=O)O | C15H21FO2
